US07589095B2
Bis(triphenylphosphine)palladium dichloride (34 mg, 0.05 mmol) was added under a nitrogen atmosphere to a mixture of 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile (155 mg, 0.50 mmol) and 3,5-bis-trifluoromethyl-bromobenzene (0.10 mL, 0.58 mmol) in dimethylformamide (3 mL). The mixture was refluxed for 4 hours then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent: DCM) to afford a solid which was triturated in pentane. After filtration, 4-(3,5-bis-trifluoromethyl-phenyl)-6-propyl-pyrimidine-2-carbonitrile (63 mg, 35%) was obtained as an off white solid (mp=112° C.).

reactant | 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile | 0.50 mmol, 155 mg | C(CC)C1=NC(=NC(=C1)[Sn](C)(C)C)C#N
reactant | 3,5-bis-trifluoromethyl-bromobenzene | 0.58 mmol, 0.10 mL | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | Bis(triphenylphosphine)palladium dichloride | 0.05 mmol, 34 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(3,5-bis-trifluoromethyl-phenyl)-6-propyl-pyrimidine-2-carbonitrile | 63 mg, 35% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NC(=C1)CCC)C#N)(F)F | C16H11F6N3
